US09029545B2
3-Bromo-5-(1-pyrrolidinyl)pyridine
To a solution of 3,5-dibromopyridine (5.5 g, 23.22 mmol) in toluene (100 mL) was added BINAP (0.840 g, 1.350 mmol), Pd2(dba)3 (0.412 g, 0.45 mmol), sodium tert-butoxide (6.49 g, 67.5 mmol) and pyrrolidine (1.86 mL, 22.50 mmol). The reaction mixture was degassed (N2, 10 min) and then heated at 100° C. for 2 h. The reaction mixture was cooled to RT and filtered through celite. The filtrate was evaporated and the residue purified by silica gel chromatography, eluting with a gradient of 0-30% ethyl acetate in cyclohexane, to afford the title compound (3.88 g). LCMS (A) m/z: 227/229 [M+1]+, Rt 0.87 min (acidic),

reactant | 3,5-dibromopyridine | 23.22 mmol, 5.5 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | sodium tert-butoxide | 67.5 mmol, 6.49 g | CC(C)([O-])C.[Na+]
reactant | pyrrolidine | 22.50 mmol, 1.86 mL | N1CCCC1 | C4H9N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.45 mmol, 0.412 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 1.350 mmol, 0.840 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 3-Bromo-5-(1-pyrrolidinyl)pyridine | 3.88 g | BrC=1C=NC=C(C1)N1CCCC1 | C9H11BrN2
